US20010056109A1
(d) 4-[(2,3-Dihydro-2-phenyl-1H-inden-1-yl)methyl]-1H-imidazole
The crude 1-benzyl-5-(2-phenylindan-1-ylidenemethyl)-1H-imidazole in acetic acid was shaken with palladium on charcoal as 1-benzyl-5-(6-methoxy-2-phenylindan-1-ylidenemethyl)-1H-imidazole above except in this case for 2 days at 60-70° C. under normal pressure. The hydrochloride salt of the purified product was the mixture of the cis and trans diastereomers (cis:trans 96:4).

reactant | 1-benzyl-5-(2-phenylindan-1-ylidenemethyl)-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1C=C1C(CC2=CC=CC=C12)C1=CC=CC=C1 | C26H22N2
reactant | 1-benzyl-5-(6-methoxy-2-phenylindan-1-ylidenemethyl)-1H-imidazole | C(C1=CC=CC=C1)N1C=NC=C1C=C1C(CC2=CC=C(C=C12)OC)C1=CC=CC=C1 | C27H24N2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
catalyst | palladium on charcoal | [Pd] | Pd
product | 4-[(2,3-Dihydro-2-phenyl-1H-inden-1-yl)methyl]-1H-imidazole | C1(=CC=CC=C1)C1C(C2=CC=CC=C2C1)CC=1N=CNC1 | C19H18N2
